US06730668B2
Preparation of 2-(4-fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-3-oxo-propionic acid methyl ester (3):
To a suspension of CrO3 in CH2Cl2 (300 mL) is added pyridine. The mixture is stirred vigorously for 1 hour at room temp. A solution of the crude 2-(4-fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-3-hydroxypropionic acid methyl ester, 2, prepared above in CH2Cl2 (50 mL) is added dropwise to the chromium suspension. The reaction mixture is stirred at room temperature for 16 hours, diluted with ether (1 L) and filtered through a pad of Celite. The filtrate is concentrated in vacuo and the resulting residue is purified over silica (25% EtOAc/hexanes) to afford 3.7 g (43% yield) of the desired product as a yellow solid.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 2-(4-fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-3-hydroxypropionic acid methyl ester | COC(C(C(O)C1=NC(=NC=C1)SC)C1=CC=C(C=C1)F)=O | C15H15FN2O3S
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 1 L | CCOCC | C4H10O
catalyst | chromium | [Cr] | Cr
product | 2-(4-fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-3-oxo-propionic acid methyl ester | 3.7 g, 43% yield | COC(C(C(=O)C1=NC(=NC=C1)SC)C1=CC=C(C=C1)F)=O | C15H13FN2O3S
